US05945382
2 g (0.008 mol) of 4-chloro-3-(3,5-dichlorophenyl)pyrazole are dissolved, at room temperature and with stirring, in 200 ml of diethyl ether. Sparging with hydrochloric acid is then carried out until precipitation has ended. The white solid is filtered and rinsed with ether to give 1.1 g (yield 52%, melting point: 175° C.) of 4-chloro-3-(3,5-dichlorophenyl)pyrazole hemihydrochloride.

reactant | 4-chloro-3-(3,5-dichlorophenyl)pyrazole | 0.008 mol, 2 g | ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | C9H5Cl3N2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4-chloro-3-(3,5-dichlorophenyl)pyrazole hemihydrochloride | 1.1 g, yield 52% | Cl.ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl.ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | InChI=1S/2C9H5Cl3N2.ClH/c2*10-6-1-5(2-7(11)3-6)9-8(12)4-13-14-9;/h2*1-4H,(H,13,14);1H
